US07635715B2
Step E: Preparation of N-((7,8-Difluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycine
A mixture of 1,1-dimethylethyl N-((7,8-difluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate (0.4 g, 1 mmol) in 3 mL TFA was stirred at room temperature for 30 minutes, M+1=325, M−1=324. The mixture was concentrated and then triturated in DCM/hexane (5:10). The solid was filtered, washed with 10 mL DCM/hexane (5:10), and dried under high vacuum to give 0.24 g of the product as a pale yellow solid. MS (m/z)=326 (M+H)+. Calculated for C15H13F2NO5 325.07.

reactant | 1,1-dimethylethyl N-((7,8-difluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate | 1 mmol, 0.4 g | FC1=CC=C2C(=C(C(C(C2=C1F)(C)C)=O)C(=O)NCC(=O)OC(C)(C)C)O | C19H21F2NO5
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((7,8-Difluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycine | 0.24 g | FC1=CC=C2C(=C(C(C(C2=C1F)(C)C)=O)C(=O)NCC(=O)O)O | C15H13F2NO5
